US09120749B2
(6-Bromo-4-{4-[(dimethylamino)methyl]phenylamino}quinolin-3-yl)(cyclopropyl)methanone
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (320 mg, 1.03 mmol) was reacted with 4-[(dimethylamino)methyl]aniline (210 mg, 1.54 mmol) to afford the desired product (218 mg, 50%) as a yellow solid: ESI MS m/z 425 [C22H22BrN3O+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1.03 mmol, 320 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | 4-[(dimethylamino)methyl]aniline | 1.54 mmol, 210 mg | CN(C)CC1=CC=C(N)C=C1 | C9H14N2
product | (6-Bromo-4-{4-[(dimethylamino)methyl]phenylamino}quinolin-3-yl)(cyclopropyl)methanone | 218 mg, 50% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(C=C1)CN(C)C | C22H22BrN3O
